US07160888B2
Synthesis of 6-Bromo-7-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of 4-(3-bromo-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.43 g, approx. 1.37 mmol, crude from previous reaction) in DCE (6 mL) was added 1-(2,3-dichloro-phenyl)-piperazine hydrochloride (367 mg, 1.37 mmol) followed by Et3N (0.38 mL, 2.75 mmol). The solution was stirred for 15 min and NaBH(OAc)3 (407 mg, 1.92 mmol) was added as a powder. The reaction was stirred at room temperature for 2 h and quenched with saturated NaHCO3 and H2O. The mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3, H2O and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography (4% MeOH/CH2Cl2) afforded the title compound as a white foam (497 mg, 0.941 mmol, 69%). MS: APCI: M+1: 527.0, 529.0, 531.0 (Exact Mass: 526.05).

reactant | 4-(3-bromo-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | approx. 1.37 mmol, 0.43 g | BrC=1C(=NC=2NC(CCC2C1)=O)OCCCC=O | C12H13BrN2O3
reactant | 1-(2,3-dichloro-phenyl)-piperazine hydrochloride | 1.37 mmol, 367 mg | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 2.75 mmol, 0.38 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.92 mmol, 407 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
product | 6-Bromo-7-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.941 mmol, 497 mg, 69% | BrC=1C=C2CCC(NC2=NC1OCCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl)=O | C22H25BrCl2N4O2
